US05990102
Bromine (5.21 g, 0.033 mol) was added to a solution of 9-phenylnonan-2-one (7.12 g, 0.033 mol) in dry methanol (75 ml) and stirred for 2 hours at room temperature. Water (50 ml) was added and stirring continued for 18 hours at room temperature. Ether (175 ml) and water (100 ml) were added, the organic layer washed with dil. NaHCO3, water (×2), dried (MgSO4) and evaporated under reduced pressure to an oil (5.39 g). Petroleum ether (40° C.-60°C., 50 ml) was added and the mixture cooled to -10° C. and filtered. The solid obtained was re-dissolved in ether (40 ml) and evaporated under reduced pressure to an oil (4.06 g) which was was further purified by flash chromatography on silica gel using hexane/ethyl acetate to give 1-bromo-9-phenylnonan-2-one a pale yellow solid (3.80 g, 39%).

reactant | Bromine | 0.033 mol, 5.21 g | BrBr | Br2
reactant | 9-phenylnonan-2-one | 0.033 mol, 7.12 g | C1(=CC=CC=C1)CCCCCCCC(C)=O | C15H22O
reactant | Water | 50 ml | O | H2O
reactant | water | 100 ml | O | H2O
solvent | methanol | 75 ml | CO | CH4O
solvent | ether | 40 ml | CCOCC | C4H10O
solvent | Ether | 175 ml | CCOCC | C4H10O
product | 1-bromo-9-phenylnonan-2-one | BrCC(CCCCCCCC1=CC=CC=C1)=O | C15H21BrO
